US06284776B1
1-[2-(4-Hydroxyphenoxy)ethyl]-4hydroxy-4-(4-methylbenzyl)piperidine hydrochloride
1-[2-(4-Hydroxyphenoxy)ethyl]-1-hydroxy-4-(4-methylbenzyl)piperidine hydrochloride. To a solution of 1-[2-(4-benzyloxyphenoxy)ethyl]-4-hydroxy-4-(4-methylbenzyl)piperidine hydrochloride (0.25 g, 0.53 mmol) in 30 mL of methanol was added 62.5 mg of 20% Pd(OH)2. The resulting mixture was hydrogenated at 20 psi of hydrogen for 3 h. The catalyst was removed through a short column of celite (5 g) and washed with methanol (3×15 mL). Methanol was evaporated in vacuo to give a residue, to which 50 mL of ether was added. The resulting mixture was stirred overnight. A white solid was collected by filtration and dried in vacuo, giving 200 mg (100%) of the title product: mp 133-135° C.

reactant | 1-[2-(4-benzyloxyphenoxy)ethyl]-4-hydroxy-4-(4-methylbenzyl)piperidine hydrochloride | 0.53 mmol, 0.25 g | Cl.C(C1=CC=CC=C1)OC1=CC=C(OCCN2CCC(CC2)(CC2=CC=C(C=C2)C)O)C=C1
reactant | hydrogen | [H][H] | H2
reactant | ether | 50 mL | CCOCC | C4H10O
solvent | methanol | 30 mL | CO | CH4O
catalyst | Pd(OH)2 | 62.5 mg | [OH-].[OH-].[Pd+2]
product | 1-[2-(4-Hydroxyphenoxy)ethyl]-4hydroxy-4-(4-methylbenzyl)piperidine hydrochloride | 200 mg, 100% | Cl.OC1=CC=C(OCCN2CCC(CC2)(CC2=CC=C(C=C2)C)O)C=C1 | InChI=1S/C21H27NO3.ClH/c1-17-2-4-18(5-3-17)16-21(24)10-12-22(13-11-21)14-15-25-20-8-6-19(23)7-9-20;/h2-9,23-24H,10-16H2,1H3;1H
